US06699995B1
2-(2-Methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]-4-(4-trifluoromethylphenyl)oxazole
To a mixture of 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol (700 mg), 2-methylphenol (432 mg), tributylphosphine (607 mg) and tetrahydrofuran (10 mL) was added 1,1′-(azodicarbonyl)dipiperidine (750 mg) at room temperature and the mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography. The title compound was obtained as crystals from an eluate from ethyl acetate-hexane (2:3, v/v). Recrystallization from acetone-isopropyl ether gave colorless prism crystals (591 mg, 67%). melting point: 101-102° C.

reactant | 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol | 700 mg | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCCO | C17H16F3N3O2
reactant | 2-methylphenol | 432 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 607 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 750 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(2-Methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]-4-(4-trifluoromethylphenyl)oxazole | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCCOC1=C(C=CC=C1)C | C24H22F3N3O2
